US04112095
Preparation of 3-ethyl-6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo[4,3-b]pyridazine
As in Example 65, 5.0 g. of 3-chloro-6-(α,α,α-trifluoro-p-tolyl)pyridazine and 3.40 g. of propionic acid hydrazide in 100 ml. of butanol is refluxed for 48 hr. to give 3.1 g of white crystals (from CHCl3 -hexane), m.p. 194°-196° C.

reactant | 3-chloro-6-(α,α,α-trifluoro-p-tolyl)pyridazine | ClC=1N=NC(=CC1)C1=CC=C(C=C1)C(F)(F)F | C11H6ClF3N2
reactant | propionic acid hydrazide | C(CC)(=O)NN | C3H8N2O
solvent | butanol | C(CCC)O | C4H10O
product | 3-ethyl-6-(α,α,α-trifluoro-p-tolyl)-1,2,4-triazolo[4,3-b]pyridazine | 3.1 g | C(C)C1=NN=C2N1N=C(C=C2)C2=CC=C(C=C2)C(F)(F)F | C14H11F3N4
